US08859777B2
Step 1: Preparation of 3-[4-(3-Benzyloxyphenyl)-4-fluoro-3-methylpiperidin-1-yl]-N-(4-bromophenyl)propionamide Hydrochloride.
This material was synthesized by the reaction of N-(4-bromophenyl)acrylamide with 4-(3-benzyloxyphenyl)-4-fluoro-3-methylpiperidine hydrochloride as described in Step 1 of Example 20. The desired compound was obtained as a light yellow solid in 65% yield.

reactant | N-(4-bromophenyl)acrylamide | BrC1=CC=C(C=C1)NC(C=C)=O | C9H8BrNO
reactant | 4-(3-benzyloxyphenyl)-4-fluoro-3-methylpiperidine hydrochloride | Cl.C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1(C(CNCC1)C)F
product | 3-[4-(3-Benzyloxyphenyl)-4-fluoro-3-methylpiperidin-1-yl]-N-(4-bromophenyl)propionamide Hydrochloride | 65% yield | Cl.C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1(C(CN(CC1)CCC(=O)NC1=CC=C(C=C1)Br)C)F | InChI=1S/C28H30BrFN2O2.ClH/c1-21-19-32(16-14-27(33)31-25-12-10-24(29)11-13-25)17-15-28(21,30)23-8-5-9-26(18-23)34-20-22-6-3-2-4-7-22;/h2-13,18,21H,14-17,19-20H2,1H3,(H,31,33);1H
